US06313122B1
A. 2-Amino-N-[1-(4-pyridyl)piperidin-4-ylmethyl]-benzeneacetamide
A solution of 1-(4-pyridyl)piperidine-4-methylamine (156 mg, 0.817 mmol), 2-nitrophenylacetic acid (159 mg, 0.875 mmol) and 1-[3-(dimethylaminopropyl]-3-ethylcarbodiimide hydrochloride (168 mg, 0.875 mmol) in DMF was stirred 16 h; and the mixture was poured into EtOAc and H2O. The aqueous layer was washed with EtOAc (2×) and the combined extracts were dried (K2CO3) and concentrated. The residue and 10% Pd/C (164 mg) in 25 mL of EtOH were placed under an atmosphere of hydrogen gas. After 2.5 h, the mixture was filtered and the filtrate concentrated. The residue was dissolved in 5% HOAc in MeOH and loaded onto a SCX Column (Varian). The column was eluted with MeOH followed by 2 M NH3 in MeOH. The latter fractions were concentrated yielding 158.6 mg (60%) of the title compound.

reactant | 1-(4-pyridyl)piperidine-4-methylamine | 0.817 mmol, 156 mg | N1=CC=C(C=C1)N1CCC(CC1)CN | C11H17N3
reactant | 2-nitrophenylacetic acid | 0.875 mmol, 159 mg | [N+](=O)([O-])C1=C(C=CC=C1)CC(=O)O | C8H7NO4
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | H2O | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Amino-N-[1-(4-pyridyl)piperidin-4-ylmethyl]-benzeneacetamide | 158.6 mg, 60% | NC1=C(C=CC=C1)CC(=O)NCC1CCN(CC1)C1=CC=NC=C1 | C19H24N4O
